US06288120B1
[3-(2-{[3-(3-Chloro-phenyl)-propyl]-methanesulfonyl-amino}-ethyl)-phenyl]-acetic acid.
A solution of [3-(2-{[3-(3-chloro-phenyl)-propyl]-methanesulfonyl-amino}-ethyl)-phenyl]-acetic acid tert-butyl ester (170 mg, 0.36 mmol) in HCl/dioxane (5 mL) was stirred for 48 h at room temperature. The reaction was concentrated and the residue was taken up in dilute aqueous NaOH (10 mL, pH=9.3). The aqueous solution was washed with EtOAc (10 mL) and the layers were separated. The aqueous layer after extraction with EtOAc (10 mL) was acidified with dilute aqueous HCl to a pH of 2.5. After extraction of the acidic aqueous layer with EtOAc (10 mL) the organic solution was dried over MgSO4, filtered, and concentrated to afford the title compound as an oil (20 mg). 1H NMR (400 MHz, CDCl3) δ 6.90-7.50 (m, 8H), 3.00-3.30 (m, 4H), 2.95 (s, 3H), 2.45-2.85 (m, 4H), 1.80 (m, 2H); MS 408 (M−1).

reactant | [3-(2-{[3-(3-chloro-phenyl)-propyl]-methanesulfonyl-amino}-ethyl)-phenyl]-acetic acid tert-butyl ester | 0.36 mmol, 170 mg | C(C)(C)(C)OC(CC1=CC(=CC=C1)CCN(S(=O)(=O)C)CCCC1=CC(=CC=C1)Cl)=O | C24H32ClNO4S
solvent | HCl dioxane | 5 mL | Cl.O1CCOCC1
product | [3-(2-{[3-(3-Chloro-phenyl)-propyl]-methanesulfonyl-amino}-ethyl)-phenyl]-acetic acid | 20 mg | ClC=1C=C(C=CC1)CCCN(CCC=1C=C(C=CC1)CC(=O)O)S(=O)(=O)C | C20H24ClNO4S
